US06960575B2
(1RS,2S)-2-Amino-1-(4,5-dihydro-1,3-thiazol-2-yl)-3-phenyl-1-propanol (Reference compound No. 12-1)
Iodotrimethylsilane (10 ml) is added to a solution of (1RS,2S)-2(benzyloxycarbonyl)amino-1-(4,5-dihydro-1,3-thiazol-2-yl)-3-phenyl-1-propanol (650 mg, Reference compound No. 11-1) in acetonitrile (10 ml), and the mixture is stirred for 30 minutes. The reaction mixture is concentrated under reduced pressure, ethyl acetate is added to the resulting residue, and the whole is extracted with 1 N hydrochloric acid. Sodium hydrogencarbonate is added to the extract to basify the system, and the whole is extracted with ethyl acetate. The extract is washed with saturated brine and dried over anhydrous magnesium sulfate. The extract is concentrated under reduced pressure to give the titled reference compound (323 mg).

reactant | Iodotrimethylsilane | 10 ml | I[Si](C)(C)C | C3H9ISi
reactant | (1RS,2S)-2(benzyloxycarbonyl)amino-1-(4,5-dihydro-1,3-thiazol-2-yl)-3-phenyl-1-propanol | C(C1=CC=CC=C1)OC(=O)N[C@H](C(O)C=1SCCN1)CC1=CC=CC=C1 | C20H22N2O3S
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (1RS,2S)-2-Amino-1-(4,5-dihydro-1,3-thiazol-2-yl)-3-phenyl-1-propanol | 323 mg | N[C@H](C(O)C=1SCCN1)CC1=CC=CC=C1 | C12H16N2OS
